US07951954B2
a) [2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-amine
2-(2,6-Dichlorophenyl)ethylamine (1.0 g) and 3-iodobenzaldehyde (1.2 g) were combined in dichloromethane (50 mL). After 1 hour, sodium triacetoxyborohydride (2.2 g) was added. After 3.5 hours, the reaction mixture was poured onto 1M aqueous sodium hydroxide (200 mL) and extracted twice with dichloromethane. The organics were combined, dried (sodium sulfate) and evaporated to give the subtitle product, as an oil (2.0 g).

reactant | 2-(2,6-Dichlorophenyl)ethylamine | 1.0 g | ClC1=C(C(=CC=C1)Cl)CCN | C8H9Cl2N
reactant | 3-iodobenzaldehyde | 1.2 g | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | sodium triacetoxyborohydride | 2.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1M, 200 mL | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | [2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-amine | ClC1=C(C(=CC=C1)Cl)CCNCC1=CC(=CC=C1)I | C15H14Cl2IN
